US09029560B2
Preparation of (Z)-2-cyano-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid (C47)
To (Z)-ethyl 2-cyano-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C46) (2.5 g, 5.8 mmol) in tetrahydrofuran/methanol/water (3:2:1, 42 mL) was added lithium hydroxide (2.5 mL, 7.5 mmol) and stirred at room temperature for 18 hours. The reaction mixture was concentrated under vacuum, cooled in an ice bath, and acidified with hydrogen chloride (2 N). The precipitate was filtered and washed with cold water to afford the title compound as a brown solid (2.2 g, 82%): 1H NMR (400 MHz, DMSO-d6) δ 9.49 (s, 1H), 8.39 (s, 1H), 8.28 (d, J=8.5 Hz, 2H), 8.18 (d, J=8.5 Hz, 2H), 8.13-8.08 (m, 2H), 7.64 (d, J=8.4 Hz, 2H); ESIMS m/z 401 ([M+H]+).

reactant | (Z)-ethyl 2-cyano-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 5.8 mmol, 2.5 g | C(#N)/C(/C(=O)OCC)=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C21H15F3N4O3
reactant | lithium hydroxide | 7.5 mmol, 2.5 mL | [OH-].[Li+]
solvent | tetrahydrofuran methanol water | 42 mL | O1CCCC1.CO.O
product | (Z)-2-cyano-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylic acid | 2.2 g, 82% | C(#N)/C(/C(=O)O)=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C19H11F3N4O3
